US07544697B2
A modification of the method described in Example 1283 was used to couple tert-butyl (4-bromo-3-cyano-1-methyl-1H-pyrazol-5-yl)methylcarbamate (1.43 g, 4.53 mmol) with 2-aminophenylboronic acid hydrochloride (1.57 g, 9.06 mmol). The reaction was completed in 70 minutes. tert-Butyl methyl ether was used instead of chloroform in the work-up procedure. The coupling product was purified by IFC (silica cartridge, eluting with 40% to 60% ethyl acetate in hexane). The reaction with hydrogen chloride was heated at reflux for 24 hours. Diethyl ether (50 mL) was added after the reaction cooled to room temperature. A precipitate was present and was isolated by filtration and dried on the vacuum filter funnel for three hours to provide 1.13 g of 1-(aminomethyl)-2-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine hydrochloride as a white solid, mp>250° C.

reactant | tert-butyl (4-bromo-3-cyano-1-methyl-1H-pyrazol-5-yl)methylcarbamate | 4.53 mmol, 1.43 g | BrC=1C(=NN(C1CNC(OC(C)(C)C)=O)C)C#N | C11H15BrN4O2
reactant | 2-aminophenylboronic acid hydrochloride | 9.06 mmol, 1.57 g | Cl.NC1=C(C=CC=C1)B(O)O
reactant | tert-Butyl methyl ether | COC(C)(C)C | C5H12O
solvent | Diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1-(aminomethyl)-2-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine hydrochloride | 1.13 g | Cl.NCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)C | InChI=1S/C12H13N5.ClH/c1-17-9(6-13)10-7-4-2-3-5-8(7)15-12(14)11(10)16-17;/h2-5H,6,13H2,1H3,(H2,14,15);1H
